US09211281B2
Preparation of (E)-2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-N-(1-(2,2,2-trifluoroethyl)piperidin-4-yl)benzamide (AC105)
To a stirred solution of (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide (0.1 g, 0.16 mmol) in THF (5.0 mL) was added TEA (0.06 mL, 0.64 mmol) and stirred for 10 min. Then 2,2,2-trifluoroethyl triflluoromethanesulfonate (0.03, 0.16 mmol) was added and stirred for 16 h at ambient temperature. The reaction mixture was diluted with ethyl acetate and washed with saturated NaHCO3 solution and brine solution. The combined ethyl acetate layer was dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as a brown solid (0.05 g, 44%).

reactant | (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide | 0.16 mmol, 0.1 g | BrC1=C(C(=O)NC2CCNCC2)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C22H19BrCl3F3N2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-N-(1-(2,2,2-trifluoroethyl)piperidin-4-yl)benzamide | 0.05 g, 44% | BrC1=C(C(=O)NC2CCN(CC2)CC(F)(F)F)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H20BrCl3F6N2O
